US05741800
Sodium bicarbonate (2.9 g) was added to a solution of 1-(2-chloroethyl)imidazole (4.0 g) and 4-(3-phenylpropyl)piperidine (6.2 g) in industrial methylated spirits (100 ml) and the reaction mixture heated under reflux for 96 hours. The reaction mixture was then filtered and the filtrate concentrated to give an oil, which was purified by flash chromatography eluting with ethylacetate/methanol/triethylamine (88:10:2). The solid obtained was dissolved in ether, ethereal hydrogen chloride acid was added and the solid precipitated was collected and recrystallised from ethanol/ether to give 1-[2-(imidazol-1-yl)ethyl]-4-(3-phenylpropyl)piperidine, dihydrochloride monohydrate, m.p. 178°-179° C.

reactant | Sodium bicarbonate | 2.9 g | C([O-])(O)=O.[Na+]
reactant | 1-(2-chloroethyl)imidazole | 4.0 g | ClCCN1C=NC=C1 | C5H7ClN2
reactant | 4-(3-phenylpropyl)piperidine | 6.2 g | C1(=CC=CC=C1)CCCC1CCNCC1 | C14H21N
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-[2-(imidazol-1-yl)ethyl]-4-(3-phenylpropyl)piperidine, dihydrochloride monohydrate | O.Cl.Cl.N1(C=NC=C1)CCN1CCC(CC1)CCCC1=CC=CC=C1 | InChI=1S/C19H27N3.2ClH.H2O/c1-2-5-18(6-3-1)7-4-8-19-9-12-21(13-10-19)15-16-22-14-11-20-17-22;;;/h1-3,5-6,11,14,17,19H,4,7-10,12-13,15-16H2;2*1H;1H2
